US09403801B2
Step 10) N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 8-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate (0.51 g, 1.19 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (5 mL, 2.83 M) and the mixture was stirred at rt for 16 h. The reaction mixture was diluted with water (10 mL) and adjusted to pH=8 with saturated Na2CO3 solution, then extracted with DCM (20 mL×3), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as a yellow solid (0.17 g, 44%).

reactant | tert-butyl 8-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 1.19 mmol, 0.51 g | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C22H33N7O2
reactant | HCl | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 2.83 M, 5 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
product | N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine | 0.17 g, 44% | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CCC2(CCNC2)CC1 | C17H25N7
